Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])=[C:10]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:7]([H:6])([H:8])[H:9],2.11085485373
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]1[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1=[C:11]([H:12])[H:13],-0.4342334827100001
[C:1][C:2]#[C:3][C:4]([O:6][H:7])[O:8][H:9].[H:5]>>[C:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9],-2.4260532819400003
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.80267597455
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.00160945194
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],-1.80722244617
[H:1][C:2]1[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]1[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10],2.84057714916
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[H:8]>>[C:2]([H:3])#[C:4][O:5][C:6]([H:7])[H:8].[O:1],3.61791132817
[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:4][O:5][H:6],7.18131161204
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-2.953733894
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13],-0.3077623833800001
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.74942525658
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:7],1.99787824785
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],-1.54470980547
[H:15].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.97510630123
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.71944523093
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:10].[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])=[C:13]([H:14])[H:15],1.96256828789
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],2.24093415181
[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.88048803266
[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[O:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-1.7212911523400003
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.28254096663
[C:6][H:7].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][H:7],-1.67202228631
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-5.35520989104
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-3.57636958076
[H:1][C:2].[H:3]>>[H:1][C:2][H:3],-4.94475947809
[C:2][O:3][C:4]#[C:5][H:6].[O:1]>>[O:1]=[C:2][O:3][C:4]#[C:5][H:6],-6.971290635549999
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]([H:3])[C:4]([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12],3.8373473132
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]1([H:6])[C:7][C:8]1[O:9][H:10],1.8656758576900003
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],0.890610762079
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2][C:3][C:4]#[C:5][C:6][H:7],7.47734448266
